US09238639B2
Methyl(4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.162 mL), (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (90 mg), methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate (118 mg) and THF (5.0 mL) was added ADDP (164 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere overnight. The mixture was concentrated. To the residue was added IPE, the precipitate was filtered off, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) and then silica gel column chromatography (EtOAc/hexane) to give the title compound (148.4 mg).

reactant | tri-n-butylphosphine | 0.162 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 90 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 118 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C)=O | C12H12O3S
reactant | ADDP | 164 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Methyl(4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 148.4 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)C)=O | C18H17F3N2O3S
